US04055597
Step C: Preparation of Ethyl 8-Carboxy-12-acetoxyheptadecanoate
A mixture of di-tert.-butyl 2-(4-acetoxynonyl)-2-(6-ethoxycarbonylhexyl)malonate (104.12 g.; 0.187 mole), p-toluenesulfonic acid monohydrate (3.30 g.) and toluene (330 ml.) is heated under reflux for 91/2 hrs.

reactant | di-tert.-butyl 2-(4-acetoxynonyl)-2-(6-ethoxycarbonylhexyl)malonate | 0.187 mole, 104.12 g | C(C)(=O)OC(CCCC(C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)CCCCCCC(=O)OCC)CCCCC | C31H56O8
reactant | p-toluenesulfonic acid monohydrate | 3.30 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 330 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 8-Carboxy-12-acetoxyheptadecanoate | C(=O)(O)C(CCCCCCC(=O)OCC)CCCC(CCCCC)OC(C)=O | C22H40O6
